US04883807
A solution of (Z)-methyl 3-methoxy-2-(pyrrol-1-yl)acrylate (10 g, 0.055 mol) in 1,2-dichloroethane (25 ml) was added dropwise with stirring at room temperature to the mixture resulting from adding phosphoryl chloride (5.6 ml, 0.06 mol) to DMF (4.7 ml, 0.06 mol) while cooling in ice. After stirring for 3 hours at room temperature, a saturated aqueous solution of sodium acetate (100 ml) was added and the resulting mixture was heated at reflux for 30 minutes. The mixture was cooled then extracted with dichloromethane (2×150 ml). The extracts were washed with water, dried and concentrated to give a clear oil (11.7 g, of a mixture of the 2 and 3-formylated pyrrole) which was purified by HPLC on silica gel using diethyl ether as the eluant to give (Z)-methyl 3-methoxy-2-(2-formylpyrrol-1-yl)acrylate (5.7 g, 45%) as a white crystalline solid, m.p. 58°-9° C., proton n.m.r. (CDCl3) delta: 3.74 (3) s, 3.88 (3) s, 6.35 (1) m, 6.87 (1) m, 7.04 (1) m, 7.55 (1) s, 9.30 (1) d.

reactant | (Z)-methyl 3-methoxy-2-(pyrrol-1-yl)acrylate | 0.055 mol, 10 g | CO\C=C(\C(=O)OC)/N1C=CC=C1 | C9H11NO3
reactant | phosphoryl chloride | 0.06 mol, 5.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 0.06 mol, 4.7 ml | CN(C)C=O | C3H7NO
reactant | sodium acetate | 100 ml | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
product | (Z)-methyl 3-methoxy-2-(2-formylpyrrol-1-yl)acrylate | 5.7 g, 45% | CO\C=C(\C(=O)OC)/N1C(=CC=C1)C=O | C10H11NO4
